US07754737B2
Step 7. Diethyl 2-acetamido-2-((3,3-difluorocyclobutyl)methyl)malonate
(3,3-Difluorocyclobutyl)methyl 4-bromobenzenesulfonate (500 mg, 1.47 mmol) and NaI (220 mg, 1.47 mmol, 1.0 equiv) were stirred in dry DMF (4 mL). In a separate 3-neck, 100 mL flask NaH (60 wt % in oil, 352 mg, 8.82 mmol, 6 equiv) was slurried in dry DMF (20 mL). The flask was cooled to 0° C. and diethyl-2-acetamidomalonate was added via syringe. After gas evolution ceased, the solution of the (3,3-difluorocyclobutyl)methyl 4-bromobenzenesulfonate and NaI In DMF was added. The resulting solution was heated to 45° C. for 17 h. After this time no remaining brosylate or iodide was observed by TLC and LC-MS. The mixture was quenched by dropwise addition of water (10 mL) and the DMF was removed in vacuo. The residue was partitioned between ether and water and the layers separated. The aqueous layer was extracted with additional ether and the combined organic layers were washed with brine. The residue was evaporated and the desired product was purified by flash chromatography on silica, eluting with 0 to 50% EtOAc in hexanes. The fractions were stained with ceric ammonium molybdate; the desired product is contained in the second spot. This afforded diethyl 2-acetamido-2-((3,3-difluorocyclobutyl)methyl)malonate (474 mg, 99%).

reactant | (3,3-Difluorocyclobutyl)methyl 4-bromobenzenesulfonate | 1.47 mmol, 500 mg | BrC1=CC=C(C=C1)S(=O)(=O)OCC1CC(C1)(F)F | C11H11BrF2O3S
reactant | NaI | 1.47 mmol, 220 mg, 1.0 equiv | [Na+].[I-]
reactant | NaH | 8.82 mmol, 352 mg, 6 equiv | [H-].[Na+]
reactant | diethyl-2-acetamidomalonate | C(C)OC(C(C(=O)OCC)NC(C)=O)=O | C9H15NO5
reactant | brosylate | S(=O)(=O)([O-])C1=CC=C(Br)C=C1
reactant | iodide | [I-]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Diethyl 2-acetamido-2-((3,3-difluorocyclobutyl)methyl)malonate | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC1CC(C1)(F)F | C14H21F2NO5
